US03959273
Citric and B.P. (0.5 g.) is dissolved in water for injection (75 ml.) and 2-(o-ethoxyphenoxymethyl)morpholine hydrochloride (2.36 g.) is added slowly to this solution with stirring. The pH of the solution is adjusted to 5.0 with N/l sodium hydroxide solution, the volume is made up to 100 ml. with water for injection and the pH is rechecked. The solution is filtered through a 5μ millipore membrane, distributed into 1 ml. ampoules and sterilized by autoclaving at 121°C. for 20 minutes. There is thus obtained a 2.0% solution of 2-(o-ethoxyphenoxymethyl)morpholine suitable for injection.

reactant | 2-(o-ethoxyphenoxymethyl)morpholine hydrochloride | 2.36 g | Cl.C(C)OC1=C(OCC2CNCCO2)C=CC=C1
reactant | sodium hydroxide | [OH-].[Na+]
solvent | water | O | H2O
product | 2-(o-ethoxyphenoxymethyl)morpholine | C(C)OC1=C(OCC2CNCCO2)C=CC=C1 | C13H19NO3
